US09063126B2
2-methyl-5,6,7,8,9,10-hexahydro-7,10-epiminocyclohepta[b]indole
4-Tolylhydrazine hydrochloride (1.90 g, 12.0 mmol) and tert-butyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate (2.70 g, 12.0 mmol; Fluka) were heated at 50° C. in anhydrous dioxane (80 mL) for one hour. Sulfuric acid (3.2 mL) was added dropwise, and the resulting mixture was heated at 80° C. overnight. After cooling the mixture to room temperature, the dioxane phase was decanted. The remaining residue was dissolved in methanol (12 mL) and added slowly to a stirred solution of concentrated ammonium hydroxide (30 mL) kept at room temperature with a water bath. The resulting mixture was extracted with ethyl acetate (3×), and the combined organic phases were washed with brine, dried (sodium sulfate), concentrated, and purified by chromatography (silica gel, 0-5% gradient of concentrated aqueous ammonium hydroxide in acetonitrile) to afford the title compound: 1H NMR (300 MHz, methanol-d4) δ ppm 1.59-1.72 (m, 1H), 1.93-2.25 (m, 3H), 2.54 (d, J=16, 1H), 3.25 (dd, J=16, 4.7, 1H), 3.91-3.99 (m, 1H), 4.49 (d, J=4.8, 1H), 6.83 (d, J=8.2, 1H), 7.12 (d, J=8.2, 1H), 7.19 (s, 1H); MS (ESI) m/z 213 (M+H)+.

reactant | 4-Tolylhydrazine hydrochloride | 12.0 mmol, 1.90 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | tert-butyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate | 12.0 mmol, 2.70 g | O=C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C12H19NO3
reactant | Sulfuric acid | 3.2 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-5,6,7,8,9,10-hexahydro-7,10-epiminocyclohepta[b]indole | CC=1C=C2C3=C(NC2=CC1)CC1CCC3N1 | C14H16N2
